US05750531
Step 2: (R)-5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(1.1 ml, 9.9 mmol) was added to a mixture solution of (R)-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.4 g, 4.8 mmol) obtained in the above Step 1 and dimethylformamide(10 ml), 1.10 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methyl-4-fluoroaniline | 9.9 mmol, 1.1 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | (R)-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 4.8 mmol, 1.4 g | CC=1C(=NC(=NC1C)Cl)N1[C@@H](C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R)-5,6-Dimethyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.10 g, Yield: 55.5% | Cl.CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)C)N1[C@@H](C2=CC=CC=C2CC1)C | InChI=1S/C23H25FN4.ClH/c1-14-13-19(24)9-10-21(14)26-23-25-16(3)15(2)22(27-23)28-12-11-18-7-5-6-8-20(18)17(28)4;/h5-10,13,17H,11-12H2,1-4H3,(H,25,26,27);1H/t17-;/m1./s1
